US05731322
(±)-trans-6-Ethyl-2-ethoxycarbonyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline
0.6 g (1.5 mmol) of (±)-trans-6-ethyl-2-ethoxycarbonyl-3-methyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline were treated with 0.84 ml (9.0 mmol) of boron tribromide as described in example 2. The crude solid was purified by flash chromatography (AcOEt/MeOH/conc. NH4OH 80:20:2), yielding 0.12 g of the title compound. M.p.=195°-197° C.

reactant | (±)-trans-6-ethyl-2-ethoxycarbonyl-3-methyl-8a-(3-methoxyphenyl)-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 1.5 mmol, 0.6 g | C(C)N1C[C@H]2CC3=C(C[C@@]2(CC1)C1=CC(=CC=C1)OC)NC(=C3C)C(=O)OCC | C24H32N2O3
reactant | boron tribromide | 9.0 mmol, 0.84 ml | B(Br)(Br)Br | BBr3
product | (±)-trans-6-Ethyl-2-ethoxycarbonyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline | 0.12 g | C(C)N1C[C@H]2CC3=C(C[C@@]2(CC1)C1=CC(=CC=C1)O)NC(=C3C)C(=O)OCC | C23H30N2O3
